US03995056
2.7 ml of water and 1.4 ml of 12.5N potassium hydroxide were added to a solution of 2.7 g of ethyl 4-(m-benzoylphenyl)-3-hydroxy-butyrate in 27 ml of ethanol and the mixture was refluxed for 11/2 hours and then evaporated to dryness. The residue as taken up in 27 ml of water and the solution was treated with activated carbon, filtered and acidified to a pH of 1 by adding 10 ml of 2N hydrochloric acid with stirring at 10° C. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried over sodium sulfate, treated with activated carbon, filtered and evaporated to dryness to obtain 2.36 g of 4-(m-benzoyl-phenyl)-3-hydroxy-butyric acid in the form of a colorless amorphous solid soluble in chloroform and insoluble in water.

reactant | water | 2.7 ml | O | H2O
reactant | potassium hydroxide | 12.5N, 1.4 ml | [OH-].[K+]
reactant | ethyl 4-(m-benzoylphenyl)-3-hydroxy-butyrate | 2.7 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)CC(CC(=O)OCC)O | C19H20O4
solvent | ethanol | 27 ml | C(C)O | C2H6O
product | 4-(m-benzoyl-phenyl)-3-hydroxy-butyric acid | 2.36 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)CC(CC(=O)O)O | C17H16O4
